US04051141
Synthesis of 2-chloro-5-phenacyl-thieno[3,2-c]pyridinium bromide (derivative No. 26)
Reaction of 2-chloro-thieno[3,2-c]pyridine (17 g) with phenacyl bromide (20 g) according to the procedure of Example 1 gives white crystals (29.60 g) having a melting point (Koefler block) of 239° C.

reactant | 2-chloro-thieno[3,2-c]pyridine | 17 g | ClC1=CC=2C=NC=CC2S1 | C7H4ClNS
reactant | phenacyl bromide | 20 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
product | 2-chloro-5-phenacyl-thieno[3,2-c]pyridinium bromide | 29.60 g | [Br-].ClC1=CC=2C=[N+](C=CC2S1)CC(=O)C1=CC=CC=C1 | InChI=1S/C15H11ClNOS.BrH/c16-15-8-12-9-17(7-6-14(12)19-15)10-13(18)11-4-2-1-3-5-11;/h1-9H,10H2;1H/q+1;/p-1
